US07115600B2
3-[3-(4-Pyrrolidin-1-ylmethyl-phenyl)-cyclobutylmethoxymethyl]-benzonitrile
To a stirring solution of [3-(4-pyrrolidin-1-ylmethyl-phenyl)-cyclobutyl]-methanol (50.0 mg, 0.20 mmol) prepared above (Step F) in 3 mL of tetrahydrofuran was added a solution of KotBu (0.42 mL, 0.41 mmol, 1M THF). After 30 minutes 3-(bromomethyl)-benzonitrile (42.0 mg, 0.21 mmol), in 1 mL of THF was added and then the reaction was heated to 40° C. (oil bath). After 3 hours the reaction was quenched with water and diluted with EtOAc. The layers were separated and the organic layer was dried over MgSO4, filtered through a fitted funnel and concentrated under reduced pressure. This material was purified by flash chromatography using a 4 g ISCO column, eluting with a gradient of 2%, 4%, 8% MeOH/CH2Cl2 w/0.1% NH4OH. The product containing fractions were collected and concentrated to give the title compound (29.0 mg, 39% yield) as a colorless oil and a mixture of cis:trans isomers.

reactant | [3-(4-pyrrolidin-1-ylmethyl-phenyl)-cyclobutyl]-methanol | 0.20 mmol, 50.0 mg | N1(CCCC1)CC1=CC=C(C=C1)C1CC(C1)CO | C16H23NO
reactant | 3-(bromomethyl)-benzonitrile | 0.21 mmol, 42.0 mg | BrCC=1C=C(C#N)C=CC1 | C8H6BrN
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 0.41 mmol, 1M, 0.42 mL | C1CCOC1 | C4H8O
product | 3-[3-(4-Pyrrolidin-1-ylmethyl-phenyl)-cyclobutylmethoxymethyl]-benzonitrile | 29.0 mg, 39% yield | N1(CCCC1)CC1=CC=C(C=C1)C1CC(C1)COCC=1C=C(C#N)C=CC1 | C24H28N2O
